US08202868B2
Pyrimidine-5-carboxylic acid {4-[4-(2-tert-butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-butyl}-amide
0.1 g of pyrimidine-5-carboxylic acid (0.805 mmol) and 0.28 g of 4-[4-(2-tert-butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-butylamine (0.805 mmol) were dissolved in 10 ml of dichloromethane. 0.46 g of diisopropylethylamine (3.17 mmol), 0.054 g of hydroxybenzotriazole (HOBt, 0.4 mmol), and 0.17 g of N-ethyl-N′-(3-dimethylamino-propyl)-carbodiimide hydrochloride (EDCl, 0.88 mmol) were added at 0° C. The reaction mixture was stirred for 16 h at room temperature. Then, 0.085 g of N-ethyl-N′-(3-dimethylaminopropyl)-carbodiimide hydrochloride were added and the reaction mixture was stirred for 4 h. The solvent was evaporated and the residue partitioned between and ethyl acetate and saturated aqueous sodium chloride. 4 ml of acetone were added to improve phase separation. The organic phase was dried over magnesium sulfate, filtered, and concentrated to dryness. The crude product was purified by chromatography on silica gel using ethyl acetate and ethyl acetate-methanol (5-10%). Evaporation of the solvent yielded 0.16 g of the title compound as a white solid.

reactant | pyrimidine-5-carboxylic acid | 0.805 mmol, 0.1 g | N1=CN=CC(=C1)C(=O)O | C5H4N2O2
reactant | 4-[4-(2-tert-butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-butylamine | 0.805 mmol, 0.28 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCN)C1CCC1 | C20H35N5
reactant | diisopropylethylamine | 3.17 mmol, 0.46 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | hydroxybenzotriazole | 0.4 mmol, 0.054 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | N-ethyl-N′-(3-dimethylamino-propyl)-carbodiimide hydrochloride | 0.88 mmol, 0.17 g | Cl.C(C)N=C=NCCCN(C)C
reactant | N-ethyl-N′-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 0.085 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | Pyrimidine-5-carboxylic acid {4-[4-(2-tert-butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-butyl}-amide | 0.16 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCNC(=O)C=1C=NC=NC1)C1CCC1 | C25H37N7O
